Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Amoxicillin / codeine / iodine
 
Attending: ___.
 
Chief Complaint:
Fluid collection at staple line
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ h/o diverticulitis s/p ___ (___) s/p colostomy 
takedown with diverting
ileostomy (___) discharged on ___ now p/w N/V, poor po 
intake, dehydration, malaise. Imaging shows sm fluid collection 
deep to midline inc. 
 
Past Medical History:
sinusitis, hypertension, high cholesterol, asthma, 
hyperglycemia,
osteoporosis, colonoscopy ___, Cololonoscopy ___ could not
pass scope past sigmoid because of diverticular narrowing and
poor prep, reflux endoscopy ___ okay atrophic vaginitis
cervical and lumbar spondylosis

 
Social History:
___
Family History:
Family History: DM- Mother/Father

 
Physical ___:
VS
98.4 117/54 18 96RA
Gen: AAOx3
HEENT: NCAT, PERRLA, EOMI, mucosa pink, no LAD
CV: RRR no mrg
Pulm: CTA ___, no w/r/c
Abd: s/nt/nd; bsx4; inc: c/d/i; new ostomy bag conforms without 
leakage. ileostomy p/p/p
ext: no c/c/e; +2 pulses 
 
Pertinent Results:
___ 03:45PM URINE  HOURS-RANDOM
___ 03:45PM URINE  HOURS-RANDOM
___ 03:45PM URINE  UHOLD-HOLD
___ 03:45PM URINE  GR HOLD-HOLD
___ 03:45PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 03:45PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-LG
___ 03:45PM URINE  RBC-4* WBC-56* BACTERIA-FEW YEAST-NONE 
EPI-20 TRANS EPI-1
___ 03:45PM URINE  HYALINE-3*
___ 03:45PM URINE  MUCOUS-RARE
___ 12:20PM   LACTATE-1.7 K+-4.4
___ 12:00PM   GLUCOSE-127* UREA N-49* CREAT-1.6*# 
SODIUM-133 POTASSIUM-6.1* CHLORIDE-90* TOTAL CO2-25 ANION 
GAP-24*
___ 12:00PM   estGFR-Using this
___ 12:00PM   CALCIUM-9.8 PHOSPHATE-5.8*# MAGNESIUM-2.1
___ 12:00PM   WBC-17.1*# RBC-4.20 HGB-12.3 HCT-37.7 MCV-90 
MCH-29.3 MCHC-32.6 RDW-16.0* RDWSD-52.5*
___ 12:00PM   NEUTS-78.0* LYMPHS-13.2* MONOS-6.8 EOS-0.8* 
BASOS-0.4 IM ___ AbsNeut-13.33* AbsLymp-2.25 AbsMono-1.17* 
AbsEos-0.14 AbsBaso-0.07
___ 12:00PM   PLT COUNT-739*#
 
Brief Hospital Course:
___ h/o diverticulitis s/p ___ (___) s/p colostomy 
takedown with diverting
ileostomy (___) discharged on ___ was admitted to ACS 
service for irritation and pain at ostomy site along with some 
drainage ___ sm fluid collection deep to midline inc.  pt was 
resuscitated during her hospital stay with IVF. pt was AAOx3 
throughout hospitalization. Her pain was well controlled with po 
pain medication. Cardiovascular functions were monitored 
routinely noninvasively and pt was hemodynamically stable. 
Pulmonary toilet was encouraged with early oob/amb and IS. pt's 
tolerated a regular diet almost immediately. Her ostomy output 
was titrated as it's output was too high. She was also given 
teaching on how to titrate her output upon discharge with 
imodium and metamucil wafers. pt's fluid balance was recorded 
and electrolytes were repleted appropriately. Her ostomy output 
was under control at HD#2. Ostomy nurse was consulted for ostomy 
site management and wound care. Details of wound care and 
intervention is documented in OMR. pt was afebrile throughout 
hospitalization. ppx was given as HSQ. Upon d/c, pt was doing 
well, afebrile, and hemodynamically stable wnl. pt received 
discharge instructions and teaching, along with follow up 
instructions. pt verbalizes agreement and understanding of 
discharge plans.
 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
2. Aspirin 81 mg PO DAILY 
3. Ciprofloxacin HCl 250 mg PO Q24H 
RX *ciprofloxacin HCl [Cipro] 250 mg 1 tablet(s) by mouth once a 
day Disp #*10 Tablet Refills:*0
4. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
six (6) hours Disp #*40 Tablet Refills:*0
5. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
6. Omeprazole 20 mg PO DAILY 
7. Simvastatin 10 mg PO QPM 
8. Tiotropium Bromide 1 CAP IH DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Colostomy takedown, loop ileostomy, dehydration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You presented to the ___ for an 

elective Colostomy takedown procedure.  You were taken to the 
Operating Room for this procedure on ___.  Because of 
complications during surgery, a loop ileostomy was created.  In 
your follow-up appointment in the Acute Care Surgery clinic, 
plans for an elective procedure for ileostomy takedown will be 
discussed. 

You have been visited by the Ostomy nurse and will be discharged 

to home with visiting nurse services.  You have tolerated a 
regular diet, worked with Physical Therapy and your pain is 
controlled on oral pain medication.  You are now medically 
cleared to be discharged to home to continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 

or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 

site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

Monitoring Ostomy output/ Prevention of Dehydration:
*Keep well hydrated.
*Replace fluid loss from ostomy daily.
*Avoid only drinking plain water. Include Gatorade and/or other 
vitamin drinks to replace fluid.
*Try to maintain ostomy output between 1000mL to 1500mL per day. 

*If your ostomy output is too high, you may take take 4mg of 
Imodium, repeat 2mg with each episode of loose stool. Do not 
exceed 16mg/24 hours. You may also try Metamucil wafers. 
 
Followup Instructions:
___